US05087764
Preparation of 4-pentyl-2,3-difluoro-iodobenzene
3-Pentyl-1,2-difluorobenzene is metalated according to 1a) or 1b). A solution of 0.1 mol of iodine in 100 ml of diethyl ether is added slowly at -70° C. The mixture is subsequently stirred for a further hour at -70° C. and warmed to 0° C., and water is added to the solution. After washing with sodium hydrogen sulfite solution and dilute sodium hydroxide solution the mixture is worked up as customary.

reactant | 3-Pentyl-1,2-difluorobenzene | C(CCCC)C=1C(=C(C=CC1)F)F | C11H14F2
reactant | iodine | 0.1 mol | II | I2
reactant | water | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-pentyl-2,3-difluoro-iodobenzene | C(CCCC)C1=C(C(=C(C=C1)I)F)F | C11H13F2I
